US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1,2,3-thiadiazole-4-carboxamide
In a 1 dram vial, 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (25 mg, 0.080 mmol), DIPEA (0.014 mL, 0.080 mmol) and 1,2,3-thiadiazole-4-carboxylic acid (10.46 mg, 0.080 mmol) were dissolved in DMF (1 mL). HATU was added (30.6 mg, 0.080 mmol) and the solution stirred overnight. The reaction mixture was diluted to 2 mL with MeOH. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.016 g, 46%) as a white solid. 1H NMR (400 MHz, Acetone-d6): δ ppm 9.55 (s, 1H), 8.94 (br. s., 1H), 7.63 (t, 1H), 7.53 (t, 1H), 7.41-7.46 (m, 1H), 7.37-7.41 (m, 2 H), 4.79 (d, 2H). LCMS m/z 422.8 (M+1).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.080 mmol, 25 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.080 mmol, 0.014 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,2,3-thiadiazole-4-carboxylic acid | 0.080 mmol, 10.46 mg | S1N=NC(=C1)C(=O)O | C3H2N2O2S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1,2,3-thiadiazole-4-carboxamide | 0.016 g, 46% | ClC1=C(C(=C(C=C1)CNC(=O)C=1N=NSC1)F)OC1=CC(=CC(=C1)C#N)Cl | C17H9Cl2FN4O2S
